US04880809
Diethyl phosphorocyanidate (1.2 ml) is added dropwise to a mixture of 7,8-dimethoxy-1,2-dihydro-4-naphthoic acid (0.5 g), 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride (0.87 g), triethylamine (0.86 g) and N,N-dimethylformamide (20 ml) with stirring. After stirring for one hour at room temperature, water (100 ml) is added to the reaction mixture and the mixture is extracted with ethyl acetate (100 ml). The organic layer is washed with water, dried and concentrated under reduced pressure. The resulting oily substance is purified by silica gel column chromatography (hexane: acetone=1:1). The product thus obtained is dissolved in ethyl ether and the solution is treated with 5N ethanolic hydrogen chloride (2 ml) to give 1-(7,8-dimethoxy-1,2-dihydro-4-naphthoyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride (0.75 g) as colorless powder.

reactant | Diethyl phosphorocyanidate | 1.2 ml | P(OCC)(OCC)(=O)C#N | C5H10NO3P
reactant | 7,8-dimethoxy-1,2-dihydro-4-naphthoic acid | 0.5 g | COC1=CC=C2C(=CCCC2=C1OC)C(=O)O | C13H14O4
reactant | 1-(3,4,5-trimethoxybenzyl)piperazine dihydrochloride | 0.87 g | Cl.Cl.COC=1C=C(CN2CCNCC2)C=C(C1OC)OC
reactant | hydrogen chloride | 5N, 2 ml | Cl | ClH
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.86 g | C(C)N(CC)CC | C6H15N
product | 1-(7,8-dimethoxy-1,2-dihydro-4-naphthoyl)-4-(3,4,5-trimethoxybenzyl)piperazine hydrochloride | 0.75 g | Cl.COC1=CC=C2C(=CCCC2=C1OC)C(=O)N1CCN(CC1)CC1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C27H34N2O6.ClH/c1-31-22-10-9-19-20(25(22)34-4)7-6-8-21(19)27(30)29-13-11-28(12-14-29)17-18-15-23(32-2)26(35-5)24(16-18)33-3;/h8-10,15-16H,6-7,11-14,17H2,1-5H3;1H
